US05811459
To a mixture of methyl 4-[3-(2-benzyloxy-5-aminophenyl) propyl]benzoate (250 mg) in DMF (5 ml) was added potassium carbonate (0.2 g) and iodoethane (0.16 ml). The reaction was stirred for 18 hours, diluted with EtOAc, washed with water and brine, dried (MgSO4), filtered and evaporated. The residue was purified by flash chromatography to give the methyl 4-[3-(2-benzyloxy-5-(diethylamino) phenyl)propyl]benzoate as an oil (150 mg).

reactant | methyl 4-[3-(2-benzyloxy-5-aminophenyl) propyl]benzoate | 250 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N)CCCC1=CC=C(C(=O)OC)C=C1 | C24H25NO3
reactant | potassium carbonate | 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.16 ml | ICC | C2H5I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-[3-(2-benzyloxy-5-(diethylamino) phenyl)propyl]benzoate | 150 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N(CC)CC)CCCC1=CC=C(C(=O)OC)C=C1 | C28H33NO3
